US05686452
46.4 g of oxalyl chloride and 2 drops of dimethyl-formamide were added to 48.3 g of monomethyl succinate dissolved in 840 ml of dichloroethane. The mixture was stirred at room temperature for 5 hours. Then, under ice cooling, 34.6 g of 2-(acetylaminomethyl)indane dissolved in 280 ml of dichloroethane and 97.6 g of anhydrous aluminum chloride were added to the reaction mixture. After the mixture was stirred for 1 hour, the reaction mixture was poured into ice water. After the organic layer was collected by separation, washed with water and dried, the solvent was removed to obtain 51.8 g of 2-(acetylaminomethyl)-5-(3-methoxycarbonylpropionyl)indane. m.p.: 139° to 140° C.

reactant | oxalyl chloride | 46.4 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | monomethyl succinate | 48.3 g | C(CCC(=O)[O-])(=O)OC
reactant | 2-(acetylaminomethyl)indane | 34.6 g | C(C)(=O)NCC1CC2=CC=CC=C2C1 | C12H15NO
reactant | aluminum chloride | 97.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
catalyst | dimethyl-formamide | 2 drops | CN(C=O)C | C3H7NO
solvent | dichloroethane | 840 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 280 ml | ClC(C)Cl | C2H4Cl2
product | 2-(acetylaminomethyl)-5-(3-methoxycarbonylpropionyl)indane | 51.8 g | C(C)(=O)NCC1CC2=CC=C(C=C2C1)C(CCC(=O)OC)=O | C17H21NO4
